US08202858B2
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid Ethyl Ester
3,3-Dimethylbutyraldehyde (5.26 ml, 42.0 mmol) was added to a solution of ethyl isonipecotate (6.6 g, 42.0 mmol) in methanol/acetic acid (99:1, v/v, 50 ml) and the mixture was stirred at room temperature for 1 h. Sodium cyanoborohydride (3.43 g, 54.6 mmol) was added, and the mixture was stirred at room temperature for 4 days then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 25% EtOAc:75% cyclohexane) to yield the title compound (7.16 g, 71%).

reactant | 3,3-Dimethylbutyraldehyde | 42.0 mmol, 5.26 ml | CC(CC=O)(C)C | C6H12O
reactant | ethyl isonipecotate | 42.0 mmol, 6.6 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | Sodium cyanoborohydride | 54.6 mmol, 3.43 g | C(#N)[BH3-].[Na+]
solvent | methanol acetic acid | 50 ml | CO.C(C)(=O)O
product | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid Ethyl Ester | 7.16 g, 71% | C(C)OC(=O)C1CCN(CC1)CCC(C)(C)C | C14H27NO2
